US08022062B2
7-Cyano-6-dimethylthiocarbamoyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add dimethylthiocarbamoyl chloride (197 mg, 1.58 mmol) to a stirred solution of 7-cyano-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (150 mg, 0.53 mmol), DMAP (6 mg, 0.05 mmol) and dry triethylamine (300 μL) in dry 1,4-dioxane (5 mL) under an atmosphere of nitrogen and heat at 120° C. for 6 h. Cool and continue stirring for 2 days at ambient temperature. Dilute with EtOAc, wash with 1N aqueous HCl, water, saturated aqueous Na2CO3 and brine. Dry over MgSO4 then concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc:heptane (0:1 to 3:10) to give the desired intermediate as a white solid (158 mg, 81%).

reactant | dimethylthiocarbamoyl chloride | 1.58 mmol, 197 mg | CN(C(=S)Cl)C | C3H6ClNS
reactant | 7-cyano-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.53 mmol, 150 mg | C(#N)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C13H11F3N2O2
reactant | triethylamine | 300 μL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.05 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Cyano-6-dimethylthiocarbamoyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 158 mg, 81% | C(#N)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OC(N(C)C)=S | C16H16F3N3O2S
